US08563577B2
Preparation of methyl 2-bromo-2-(3-fluorophenyl)acetate (I15)
Methyl 2-(3-fluorophenyl)acetate (1.90 g, 11.3 mmol) and N-bromo succinimide (2.01 g, 11.3 mmol) were dissolved in CCl4 (80 ml). HBr (64 ul, 0.56 mmol) was added, and the mixture was stirred under reflux overnight. The mixture was cooled at room temperature, diluted with DCM, and washed with sat. NaHCO3, water and brine. The organic layer was dried (Na2SO4), filtered, and evaporated obtaining intermediate I15 (2.68 g, 96% yield).

reactant | Methyl 2-(3-fluorophenyl)acetate | 11.3 mmol, 1.90 g | FC=1C=C(C=CC1)CC(=O)OC | C9H9FO2
reactant | N-bromo succinimide | 11.3 mmol, 2.01 g | BrN1C(CCC1=O)=O | C4H4BrNO2
reactant | HBr | 0.56 mmol, 64 ul | Br | BrH
solvent | CCl4 | 80 ml | C(Cl)(Cl)(Cl)Cl | CCl4
solvent | DCM | C(Cl)Cl | CH2Cl2
product | methyl 2-bromo-2-(3-fluorophenyl)acetate | 96% yield | BrC(C(=O)OC)C1=CC(=CC=C1)F | C9H8BrFO2
